US05849743
c) 6-Chloro-1-cyclohexylquinoxaline-2,3(1H,4H)-dione
34.5 g (0.15 mol) of 2-amino-4-chloro-N-cyclohexylaniline were refluxed in 500 ml of diethyl oxalate for 4 h. After cooling, the precipitate was filtered off with suction, washed with n-pentane and dried. 26.8 g (63%) of the product were obtained. Melting point 265°-266° C.

reactant | 2-amino-4-chloro-N-cyclohexylaniline | 0.15 mol, 34.5 g | NC1=C(NC2CCCCC2)C=CC(=C1)Cl | C12H17ClN2
reactant | diethyl oxalate | 500 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 6-Chloro-1-cyclohexylquinoxaline-2,3(1H,4H)-dione | 26.8 g, 63% | ClC=1C=C2NC(C(N(C2=CC1)C1CCCCC1)=O)=O | C14H15ClN2O2
